US04971993
N-benzenesulfonyl-γbenzyl-L-glutamyl-L-proline benzylester (2.61 g, 4.6 mmole) was dissolved in methanol (40 ml), and water (5 ml) suspension of sodium bicarbonate (0.84 g, 10 mmole) was added thereto. Hydrogen gas was passed through the solution in the presence of 5% palladium-carbon as a catalyst for 4 hours. The catalyst was removed by filtration, and the solvent was distilled off under reduced pressure, and the residue thus obtained was dissolved in water (30 ml). The mixture was washed with two 30 ml portions of diethyl ether, to the water layer 1N aqueous hydrochloric acid (15 ml) was added, and the solution thus obtained was concentrated under reduced pressure. The white residue thus obtained was dispersed in a mixture (100 ml) of ethyl acetate and methanol (1:1), and the mixture was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain white solid. It was recrystallized from methanol, ethyl acetate and petroleum ether to obtain N-benzenesulfonyl-L-glutamyl-L-proline (yield: 1.36 g, 76.5%).

reactant | N-benzenesulfonyl-γbenzyl-L-glutamyl-L-proline benzylester | 4.6 mmole, 2.61 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NS(=O)(=O)C1=CC=CC=C1)CC(C(O)=O)CC1=CC=CC=C1)=O)=O | C30H32N2O7S
reactant | sodium bicarbonate | 10 mmole, 0.84 g | C([O-])(O)=O.[Na+]
reactant | Hydrogen | [H][H] | H2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
solvent | water | 30 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | N-benzenesulfonyl-L-glutamyl-L-proline | yield: 1.36 g, 76.5% | C1(=CC=CC=C1)S(=O)(=O)N[C@@H](CCC(O)=O)C(=O)N1[C@H](C(=O)O)CCC1 | C16H20N2O7S
